US04870187
Ethyl 3,3-bis(4-fluorophenyl)-2-(5-phenyl-1H-tetrazol-1-yl)-2-propenoate
To a suspension of 5.8 g (14 mmoles) of ethyl 3,3-bis-(4-fluorophenyl)-2-(benzoylamino)-2-propenoate and 11.2 g of triphenylphosphine in 150 mL of dry acetonitrile at room temperature was added dropwise 8.3 mL of carbon tetrachloride. The pale suspension was stirred for 45 minutes. To this clear orange solution was added 2.8 g of sodium azide and 1 g of tetra n-butyl ammonium bromide and stirring was continued. The orange suspension soon became pale with the formation of a white precipitate. After three hours, the mixture was filtered and the solution was concentrated under reduced pressure. More triphenylphosphine oxide was removed and the desired product was purified by crystallizations from ethyl acetate-hexanes to give 4.2 g (69%) of the title compound; m.p.=148.6-150.1° C.

reactant | ethyl 3,3-bis-(4-fluorophenyl)-2-(benzoylamino)-2-propenoate | 14 mmoles, 5.8 g | FC1=CC=C(C=C1)C(=C(C(=O)OCC)NC(C1=CC=CC=C1)=O)C1=CC=C(C=C1)F | C24H19F2NO3
reactant | triphenylphosphine | 11.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 8.3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | sodium azide | 2.8 g | [N-]=[N+]=[N-].[Na+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
catalyst | tetra n-butyl ammonium bromide | 1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | Ethyl 3,3-bis(4-fluorophenyl)-2-(5-phenyl-1H-tetrazol-1-yl)-2-propenoate | 4.2 g, 69% | FC1=CC=C(C=C1)C(=C(C(=O)OCC)N1N=NN=C1C1=CC=CC=C1)C1=CC=C(C=C1)F | C24H18F2N4O2
